US06258360B1
2-Bromo-3,4,5-trimethoxybenzoic acid 5
A solution of bromine (100 mmol) in 100 mL of acetic acid is added dropwise to a solution of 3,4,5-trimethoxybenzoic acid (100 mmol) in 100 mL of acetic acid cooled by an ice water bath. After the red color of the resulting mixture is discharged, the mixture is poured onto 500 g of crushed ice. The resulting solid is collected by filtration, dried over P2O5 in vacuo, and recrystallized from Et2O to give the product as a pale yellow solid.

reactant | bromine | 100 mmol | BrBr | Br2
reactant | 3,4,5-trimethoxybenzoic acid | 100 mmol | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 2-Bromo-3,4,5-trimethoxybenzoic acid | BrC1=C(C(=O)O)C=C(C(=C1OC)OC)OC | C10H11BrO5
